US08686024B2
Synthesis of 1-benzyl-3,3-dimethylindolin-5-yl cyclohexylmethylcarbamate
The title compound was synthesized from 1-benzyl-3,3-dimethylindolin-5-ol (20.0 mg, 0.09 mmol) using the same procedure employed for Example 2 (2), but with cyclohexylmethylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (10.5 mg, 34%) having the following characteristics.

reactant | 1-benzyl-3,3-dimethylindolin-5-ol | 0.09 mmol, 20.0 mg | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)O)(C)C | C17H19NO
reactant | cyclohexylmethylisocyanate | C1(CCCCC1)CN=C=O | C8H13NO
product | 1-benzyl-3,3-dimethylindolin-5-yl cyclohexylmethylcarbamate | C1(CCCCC1)CNC(OC=1C=C2C(CN(C2=CC1)CC1=CC=CC=C1)(C)C)=O | C25H32N2O2
